US06013649
Part C: To an ice cooled, stirred solution of (6.2 g, 20 mmol) of β-(4-methoxyphenylsulfonyl)-D,L-alanine methyl ester hydrochloride in tetrahydrofuran under nitrogen was added dropwise, (20 mL, 20 mmol) of lithium aluminum hydride in tetrahydrofuran. After 2 hours the ice cooled solution was carefully quenched by the addition of 5 mL of 10% sodium hydroxide and the resulting suspension was filtered through CELITE®. The filtrate was dried over magnesium sulfate filtered and concentrated to yield 2.7 grams of β-(4-methoxyphenyl-sulfonyl)-D,L-alaninol.

reactant | β-(4-methoxyphenylsulfonyl)-D,L-alanine methyl ester hydrochloride | 20 mmol, 6.2 g | Cl.COC(C(N)CS(=O)(=O)C1=CC=C(C=C1)OC)=O
reactant | lithium aluminum hydride | 20 mmol, 20 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | β-(4-methoxyphenyl-sulfonyl)-D,L-alaninol | 2.7 grams | COC1=CC=C(C=C1)S(=O)(=O)CC(N)CO | C10H15NO4S
